US07223764B2
1-Formyl-4-(2-hydroxyethyl)piperazine (1.20 g, 7.6 mmol), 5-fluoro-2-mercaptobenzimidazole (1.28 g, 7.6 mmol), and diisopropylethylamine (3.93 g, 30.4 mmol) was dissolved in propionitrile (50 mL), and cyanomethyltrimethylphosphonium iodide (7.39 g, 30.4 mmol) was added to the mixture, followed by stirring for one hour at 92° C. under argon. The reaction mixture was allowed to cool and then poured into water (100 mL), followed by extraction with chloroform (100 mL×3) The resultant organic layer was washed with saturated brine and then dried over sodium sulfate anhydrate, followed by concentration under reduced pressure. The crude product was crystallized from acetone-ether, to thereby yield 1-[2-(5-fluorobenzimidazol-2-ylthio)ethyl]-4-formylpiperazine (1.87 g, yield 80%) as a brown crystalline powder.

reactant | 1-Formyl-4-(2-hydroxyethyl)piperazine | 7.6 mmol, 1.20 g | C(=O)N1CCN(CC1)CCO | C7H14N2O2
reactant | 5-fluoro-2-mercaptobenzimidazole | 7.6 mmol, 1.28 g | FC1=CC2=C(N=C(N2)S)C=C1 | C7H5FN2S
reactant | diisopropylethylamine | 30.4 mmol, 3.93 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyanomethyltrimethylphosphonium iodide | 30.4 mmol, 7.39 g | [I-].C(#N)C[P+](C)(C)C
solvent | propionitrile | 50 mL | C(CC)#N | C3H5N
solvent | water | 100 mL | O | H2O
product | 1-[2-(5-fluorobenzimidazol-2-ylthio)ethyl]-4-formylpiperazine | 1.87 g, yield 80% | FC1=CC2=C(N=C(N2)SCCN2CCN(CC2)C=O)C=C1 | C14H17FN4OS
